US06900216B2
A mixture of 3-(benzo[b]thiophen-4-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride (2 g; prepared in a manner similar to that described in Example 9 Method A), 5M aqueous sodium hydrogencarbonate solution (50 ml) and dichloromethane (50 ml) was stirred at ambient temperature for 30 minutes, then the free base was extracted into dichloromethane (2×50 ml). The combined extracts were dried (MgSO4) and the solvent was removed in vacuo. The residue was dissolved in tetrahydrofuran (40 ml), then the stirred solution was cooled to −70° C. and n-butyllithium (2.5M solution in hexanes; 2.85 ml) was added dropwise under nitrogen. The mixture was stirred at −70° C. for 1 hour, then methyl iodide (0.45 ml) was added dropwise. The mixture was stirred at −70° C. for 1 hour then it was poured into saturated aqueous ammonium chloride solution (50 ml). The product was extracted into ethyl acetate (2×50 ml), the combined extracts were dried (MgSO4) and the solvents were removed in vacuo. The residue was purified via flash chromatography over silica using a 9:1 mixture of dichloromethane and methanol as eluant. Appropriate fractions were combined and the solvents were removed in vacuo. The residue was dissolved in ethanol, concentrated hydrochloric acid (10 drops) was added, the solvent was removed in vacuo, and the residue was triturated with ether (30 ml). The mixture was allowed to stand at ambient temperature for 72 hours then the resulting solid was collected by filtration and dried in vacuo to give 2-methyl-3-(2-methylbenzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride (1.15 g) as a colourless solid, m.p. 271° C.

reactant | 3-(benzo[b]thiophen-4-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)C=2N1C(SC2C)=NCC1
reactant | sodium hydrogencarbonate | 5M, 50 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-methyl-3-(2-methylbenzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride | 1.15 g | Cl.CC1=C(N2C(S1)=NCC2)C2=CC=CC=1SC(=CC12)C | InChI=1S/C15H14N2S2.ClH/c1-9-8-12-11(4-3-5-13(12)18-9)14-10(2)19-15-16-6-7-17(14)15;/h3-5,8H,6-7H2,1-2H3;1H
